Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___ - bedside pericardiocentesis at ___

 
History of Present Illness:
 HISTORY OF PRESENTING ILLNESS: Mr. ___ is a ___
male with rheumatoid arthritis, DMARD holiday, and recent, brief
hospitalization for presumptive pericarditis, returned to 
outside
hospital with probable cardiac tamponade now post-bedside
pericardiocentesis with drain placement prior to transfer.
Importantly, patient was hospitalized at ___ on ___ with acute pleuritic chest pain of two-day duration in the
context of constellation of fatigue, malaise, upper respiratory
symptoms, and non-productive cough. While CTA exonerated
pulmonary embolism, thickened pericardium and small effusion 
were
noted, suggesting pericarditis. ECG revealed subtle diffuse ST
elevations in keeping with pericarditis. Echocardiogram 
confirmed
said effusion, though no features of tamponade were appreciated.
He was discharged the same day with ibuprofen 600 mg TID and
colchicine 0.6 mg BID. He had persistence of minor residual 
chest
pain, which began to worsen two days later, but was tolerable
until yesterday evening when it evolved to severe, unrelenting
pain across his precordium likened to "wearing shoulder pads
bearing down on him." He notes a new concurrent substernal chest
pain that "goes straight to his back." He then became dyspneic,
prompting him to seek care. He arrived at ___ hypotensive
with SBP in the 80-range. He was borderline tachycardic and in
mild respiratory distress, but oxygenation was acceptable. He
rapidly received three liters of fluid for presumptive tamponade
within the confines of poor windows on bedside echocardiogram.
Pericardiocentesis yielded 400 cc or more of serous fluid and a
pericardial drain was placed. Hemodynamics rapidly improved. On
arrival to ___ ED, patient was indeed hemodynamically stable
but was then in moderate respiratory distress, requiring
non-rebreather. He was given Lasix 20 mg IV. Bedside
echocardiogram was limited, but preliminarily suggestive of 
small
residual effusion. In the CCU, patient notes resurgence of said
chest pain. His dyspnea is improving. An additional 250 cc was
drained. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
 Cardiac History:  
-Pericarditis, as above.
-Hypertension.
-Dyslipidemia. 
 
 Other PMH:  
-Rheumatoid arthritis. 
-Remote traumatic DVT.
-Cholecystectomy.
-Appendectomy.
-Tonsillectomy.
-Left wrist reconstruction.
-Right rotator cuff reconstruction.

 
Social History:
___
Family History:
paternal history of ureothelial carcinoma.
Maternal history of diabetes. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=================================
 VS: T 96.7, HR 81, BP 136/81, O2 94% 6L 
 GENERAL: obese male in mild to moderate respiratory distress.  
 HEENT: anicteric sclerae. Oropharynx clear.  
 NECK: JVP at mandibular angle. 
 CARDIAC: tachycardic, regular with rare ectopy, S1/S2 within 
the
confines of body habitus. Subtle pericardial rub. Pericardial
drain with serosanguinous fluid. Sternal tenderness. 
 LUNGS: Conversational dyspnea but tachypnea is slowing. Diffuse
wheezing and crackles in bilateral lung fields.  
 ABDOMEN: obese, soft, non-tender.
 EXTREMITIES: Warm, well perfused, 2+ pitting edema to knees.  
 SKIN: Chronic bilateral venous stasis dermatitis.  
 PULSES: Distal pulses palpable and symmetric.  
 NEURO: non-focal.

DISCHARGE PHYSICAL EXAMINATION:  
=================================
GENERAL: obese male in mild to moderate respiratory distress.  
 HEENT: anicteric sclerae. Oropharynx clear.  
 NECK: JVP not appreciated. 
 CARDIAC: normal rate and rhythm, S1/S2 within the confines of
body habitus. No pericardial rub appreciated. 
 LUNGS: Decreased respiratory effort compared to yesterday.
Expiratory wheezing and bibasilar crackles.
 ABDOMEN: obese, soft, non-tender, non-distended.
 EXTREMITIES: Warm, well perfused, 1 to 2+ pitting edema to
knees.  
 SKIN: Chronic venous stasis dermatitis.  
 PULSES: Distal pulses palpable and symmetric.  
 NEURO: non-focal.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:57PM   WBC-16.9* RBC-4.63 HGB-14.2 HCT-43.1 MCV-93 
MCH-30.7 MCHC-32.9 RDW-13.1 RDWSD-44.1
___ 10:57PM   NEUTS-85.5* LYMPHS-4.3* MONOS-9.4 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.43* AbsLymp-0.72* AbsMono-1.58* 
AbsEos-0.01* AbsBaso-0.04
___ 10:57PM   ___ PTT-27.2 ___
___ 10:57PM   GLUCOSE-269* UREA N-20 CREAT-0.9 SODIUM-135 
POTASSIUM-5.3 CHLORIDE-106 TOTAL CO2-18* ANION GAP-11
___ 10:57PM   CALCIUM-7.4* PHOSPHATE-3.1 MAGNESIUM-1.6
___ 10:57PM   cTropnT-<0.01
___ 11:03PM   LACTATE-2.0
___ 01:05AM PLEURAL FLUID STUDIES ___ 
Polys-94* Lymphs-2* Monos-4*

IMAGING:
========
___ TTE
The left atrium is normal in size. The inferior vena cava is 
dilated (>2.5 cm). There is normal left ventricular
wall thickness with a normal cavity size. There is suboptimal 
image quality to assess regional left ventricular
function. Overall left ventricular systolic function is normal. 
Quantitative biplane left ventricular ejection
fraction is 66 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). No ventricular septal defect is
seen. Normal right ventricular cavity size with normal free wall 
motion. There is abnormal interventricular
septal motion. The aortic sinus diameter is normal for gender 
with normal ascending aorta diameter for
gender. The aortic arch diameter is normal. There is no evidence 
for an aortic arch coarctation. The aortic
valve leaflets (?#) appear structurally normal. There is no 
aortic valve stenosis. There is no aortic
regurgitation. The mitral valve is not well visualized. The 
tricuspid valve is not well seen. The pulmonary
artery systolic pressure could not be estimated. There is no 
pericardial effusion.

MICRO:
======
___ 1:05 am FLUID,OTHER      PERICARDIAL FLUID. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary): 
      Reported to and read back by ___ ___ 
1:53PM. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1 COLONY ON 1 
PLATE. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

DISCHARGE LABS:
===============
___ 04:01AM BLOOD WBC-13.0* RBC-4.05* Hgb-12.3* Hct-37.3* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.0 RDWSD-43.8 Plt ___
___ 03:30PM BLOOD Glucose-115* UreaN-22* Creat-0.6 Na-138 
K-4.1 Cl-100 HCO3-24 AnGap-14
___ 04:01AM BLOOD ALT-43* AST-27 AlkPhos-99 TotBili-0.5
___ 03:30PM BLOOD Calcium-8.2* Phos-2.9 Mg-1.9
___ 10:57PM BLOOD proBNP-110
___ 03:29AM BLOOD TSH-0.93
___ 11:04AM BLOOD ___ pO2-82* pCO2-42 pH-7.34* 
calTCO2-24 Base XS--2
 
Brief Hospital Course:
SUMMARY: 
===================== 
___ male with rheumatoid arthritis, DMARD holiday, and
recent, brief hospitalization for presumptive pericarditis,
returned to outside hospital with pericardial effusion with 
possible tamponade physiology now post-bedside 
pericardiocentesis prior to transfer, with persistent 
pericardial effusion now s/p drain placement with course 
complicated by acute hypercapneic respiratory distress. 

#CORONARIES: unknown.
#PUMP: normal biventricular structure and function. 
#RHYTHM: NSR. pAF ___

TRANSITIONAL ISSUES:
====================
[] He was discharged on ibuprofen 600mg TID and colchicine 0.6mg 
BID for his inflammatory pericarditis. He should continue 
colchicine for 3 months. He should have his ibuprofen tapered 
weekly following resolution of his symptoms over 3 weeks to 
reduce the risk of recurrence. 
[] He was discharged on a PPI and should continue this while on 
ibuprofen. 
[] Strongly recommend that patient receive outpatient PFTs given 
high suspicion for baseline obstructive/restrictive pulmonary 
disease 
[] Patient developed paroxysmal afib with RVR during this 
admission which is a new diagnosis. CHADSVASC 2 for hypertension 
and diabetes. Anticoagulation was not started during this 
admission given that he was felt to have relatively low risk for 
CVA, however please make a note of this new diagnosis and 
reassess need for anticoagulation as medically appropriate. 
[] He was newly diagnosed with DM (HbA1c 7.9 at ___ 
and will be discharged on metformin 500 BID. Will require 
outpatient follow-up for this and can consider uptitration in 
the outpatient setting. 
[] Please reassess need for diuretic in the outpatient setting. 
He had no echocardiographic evidence of heart failure during 
this admission so was not discharged on diuretics. 

New medications:
Metformin 500mg BID
Metoprolol XL 50mg QD 
Omeprazole 20mg QD 

Continued medications:
Atorvastatin 10mg QPM
Colchicine 0.6mg BID
Ibuprofen 600mg TID
Folic acid 1mg PO QD
Sertraline 100mg PO QD

Stopped medications: 
Methotrexate 20mg PO
Famotidine 20mg QD

ACUTE ISSUES: 
=============
#) Acute pericarditis
#) Cardiac tamponade, now s/p pericardiocentesis and drain
placement 
He presented with inflammatory pericarditis of probable viral 
nature in the context of viral-like prodrome versus rheumatic 
pericarditis, given serologic positive active disease in the 
absence of DMARD. Pericardial fluid cultures from ___ 
negative, cultures here with 1 colony on 1 plate of coag 
negative staph felt to be contaminant, negative acid fast smear. 
No biochemical evidence of myocardial injury on admission, 
unlikely to have concurrent myocarditis or cardiac event 
sequelae. At ___ was initially noted to have SBPs in 
the ___ and received fluid resuscitation and pericardiocentesis 
given concern for tamponade physiology. Hemodynamics 
subsequently stabilized and remained so throughout the duration 
of his admission here. TTE on ___ showed no pericardial 
effusion. Pericardial drain was initially left to gravity due to 
continued output, and was removed ___. He was treated with 
colchicine 0.6mg BID which he will continue for 3 months after 
discharge. He also received ibuprofen 600mg PO TID and will be 
discharged on a slow taper; he received PPI while receiving 
NSAIDs. 

#) Acute hypercapnic respiratory failure - resolving
Probable flash pulmonary edema from rapid large-volume fluid 
administration on tamponade, as evidenced by radiographic 
pulmonary edema. Earlier echocardiogram otherwise not suggestive 
of ventricular dysfunction and BNP is within normal limits. TTE 
on ___ was without evidence of cardiac etiology for his 
pulmonary edema/respiratory failure.
Patient likely has unappreciated restrictive pulmonary 
physiology. Additionally, no emphysematous changes noted on CT 
one week ago, but
background obstructive defect is conceivable, given compelling
smoking history. He had a negative CTA one week prior to 
admission. Patient had leukocytosis on admission without clear 
radiographic consolidation suggestive of pneumonia - one dose of 
empiric azithromycin was given overnight and discontinued on 
___. He received IV diuresis with significant improvement in 
his respiratory status. O2 weaned ___ morning. He was breathing 
comfortably on RA at the time of discharge with ambulatory 
saturations >90%. 

#) Paroxysmal AFib, new diagnosis 
Patient went into Afib with RVR on ___, and subsequently 
received metoprolol. He subsequently flipped back into NSR. His 
CHADsVASC = 2 (DM, HTN). Anticoagulation was discussed but 
ultimately deferred at the time of discharge given the patient's 
lower overall risk for CVA and concerns regarding medication 
adherence/cost. He was discharged on metoprolol. He should have 
his need for anticoagulation reassessed as an outpatient as 
medically appropriate. 

#) Type II diabetes: 
He was newly diagnosed with DM with a A1C of 7.9% during this 
admission. He was maintained on an insulin sliding scale during 
this admission and will be discharged on metformin 500mg BID. 

CHRONIC/STABLE ISSUES:
====================
#) Rheumatoid arthritis: 
RF and anti-CCP positive per outpatient rheumatology. Not
currently endorsing sx suggestive of RA flare. Per discussion
with OP rheumatologist, deferred restarting MTX and/or other
DMARD until outpatient.

#) HTN
His home BP meds were held initially due to soft BPs and were 
stopped at the time of discharge as he remained normotensive. 

CORE MEASURES: 
============== 
#CODE: DNR/DNI.
#CONTACT/HCP: ___, ex-wife (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Colchicine 0.6 mg PO BID 
3. Ibuprofen 600 mg PO TID 
4. Famotidine 20 mg PO DAILY 
5. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
6. Methotrexate 20 mg PO 1X/WEEK (___) 
7. Sertraline 100 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, shortness of 
breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 2 puffs ih every 6 
hours as needed Disp #*1 Inhaler Refills:*0 
2.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth Twice a day Disp #*60 
Tablet Refills:*2 
3.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*2 
4.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*2 
5.  Atorvastatin 10 mg PO QPM  
6.  Colchicine 0.6 mg PO BID 
RX *colchicine 0.6 mg 1 capsule(s) by mouth Twice a day Disp 
#*60 Capsule Refills:*2 
7.  FoLIC Acid 1 mg PO DAILY  
8.  Ibuprofen 600 mg PO TID  
9.  Sertraline 100 mg PO DAILY  
10. HELD- lisinopril-hydrochlorothiazide ___ mg oral DAILY  
This medication was held. Do not restart 
lisinopril-hydrochlorothiazide until instructed by your primary 
care doctor or cardiologist
11. HELD- Methotrexate 20 mg PO 1X/WEEK (___)  This medication 
was held. Do not restart Methotrexate until a doctor tells you 
to

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: inflammatory pericarditis
Secondary Diagnosis: rheumatoid arthritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital with chest pain. 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
-  You were found to have inflammation and a build up of fluid 
in the lining of the heart.
- You had a procedure to remove the fluid from the lining of the 
heart and a temporary drain placed. This was removed before you 
left the hospital. 
- You received medication to help you pee off the excess fluid 
in your body. 
- You developed an abnormal heart rhythm (afib) while in the 
hospital. You were started on a new medication for this 
(metoprolol).
- You were diagnosed with diabetes during this admission. You 
were started on a new medication for this (metformin). 
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!  

We wish you all the best!  
 - Your ___ Care Team  
 
Followup Instructions:
___